US09315459B2
2-(4-tolylsulfanyl)-phenyl bromide
In a stirred nitrogen covered reactor N-methyl-pyrrolidone, NMP (4.5 L) was flushed with nitrogen for 20 minutes. 4-Methylbenzenethiol (900 g, 7.25 mol) was added and then 1,2-dibromobenzene (1709 g, 7.25 mol). Potassium tert-butoxide (813 g, 7.25 mol) was finally added as the last reactant. The reaction was exothermic giving a temperature rise of the reaction mixture to 70° C. The reaction mixture was then heated to 120° C. for 2-3 hours. The reaction mixture was cooled to room temperature. Ethyl acetate (4 L) was added and aqueous sodium chloride solution (15%, 2.5 L). The mixture was stirred for 20 minutes. The aqueous phase was separated and extracted with another portion of ethyl acetate (2 L). The aqueous phase was separated and the organic phases were combined and washed with sodium chloride solution (15%, 2.5 L) The organic phase was separated, dried with sodium sulphate and evaporated at reduced pressure to a red oil which contains 20-30% NMP. The oil was diluted to twice the volume with methanol and the mixture was refluxed. More methanol was added until a clear red solution was obtained. The solution was cooled slowly to room temperature while seeded. The product crystallises as off white crystals, they were isolated by filtration and washed with methanol and dried at 40° C. in a vacuum oven until constant weight.

reactant | 4-Methylbenzenethiol | 7.25 mol, 900 g | CC1=CC=C(C=C1)S | C7H8S
reactant | 1,2-dibromobenzene | 7.25 mol, 1709 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | Potassium tert-butoxide | 7.25 mol, 813 g | CC(C)([O-])C.[K+]
reactant | sodium chloride | 2.5 L | [Cl-].[Na+]
solvent | Ethyl acetate | 4 L | C(C)(=O)OCC | C4H8O2
product | 2-(4-tolylsulfanyl)-phenyl bromide | C1(=CC=C(C=C1)SC1=C(C=CC=C1)Br)C | C13H11BrS
